US05656629
A solution of ethyl bromoacetate (20.9 g) in acetonitrile (30 mL) was added to a mixture of K2CO3 (27.6 g, 0.2 mol) and 1,2,3,4-tetrahydro-2-isoquinoline (13.3 g, 0.1 mol) in acetonitrile (220 mL). The reaction mixture was stirred at room temperature for about 2 days, and then was refluxed for 4 hours. The reaction mixture was filtered, the filtrate was concentrated in vacuo and the residue was partitoned between ether and water. The ether layer was separated, dried over MgSO4 and concentrated in vacuo to afford a liquid which was dissolved in ether (200 mL), cooled and treated with Et2O.HCl to afford 12,5 g (77%) of ethyl 1,2,3,4-tetrahydro-2-isoquinolinylacetate hydrochloride.

reactant | ethyl bromoacetate | 20.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 0.2 mol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2,3,4-tetrahydro-2-isoquinoline | 0.1 mol, 13.3 g | C1CNCC2=CC=CC=C21 | C9H11N
reactant | Et2O.HCl | O(CC)CC.Cl
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetonitrile | 220 mL | C(C)#N | C2H3N
solvent | ether | 200 mL | CCOCC | C4H10O
product | ethyl 1,2,3,4-tetrahydro-2-isoquinolinylacetate hydrochloride | 12,5 g, 77% | Cl.C1(NCCC2=CC=CC=C12)CC(=O)OCC | InChI=1S/C13H17NO2.ClH/c1-2-16-13(15)9-12-11-6-4-3-5-10(11)7-8-14-12;/h3-6,12,14H,2,7-9H2,1H3;1H
